US09130184B2
Step 1: Synthesis of 4,6-Diphenylpyrimidine (abbreviation: Hdppm)
First, 5.02 g of 4,6-dichloropyrimidine, 8.29 g of phenylboronic acid, 7.19 g of sodium carbonate, 0.29 g of bis(triphenylphosphine)palladium(II) dichloride (abbreviation: Pd(PPh3)2Cl2), 20 mL of water, and 20 mL of acetonitrile were put into a recovery flask equipped with a reflux pipe, and the air in the flask was replaced with argon. This reaction container was heated by irradiation with microwaves (2.45 GHz, 100 W) for 60 minutes. Here, there were further put 2.08 g of phenylboronic acid, 1.79 g of sodium carbonate, 0.070 g of Pd(PPh3)2Cl2, 5 mL of water, and 5 mL of acetonitrile into the flask, and the mixture was heated again by irradiation with microwaves (2.45 GHz, 100 W) for 60 minutes. After that, water was added to this solution and an organic layer was extracted with dichloromethane. The obtained solution of the extract was washed with water and dried with magnesium sulfate. The solution after drying was filtered. The solvent of this solution was distilled off, and then the obtained residue was purified by silica gel column chromatography using dichloromethane as a developing solvent, so that a pyrimidine derivative Hdppm (yellow white powder, 38% in yield) was obtained. Note that for the irradiation with microwaves, a microwave synthesis system (Discover, manufactured by CEM Corporation) was used. A synthesis scheme (a-1) of Step 1 is shown below.

reactant | 4,6-dichloropyrimidine | 5.02 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | phenylboronic acid | 8.29 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 7.19 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylboronic acid | 2.08 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1.79 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.29 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Pd(PPh3)2Cl2 | 0.070 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | 4,6-Diphenylpyrimidine | 38% | C1(=CC=CC=C1)C1=NC=NC(=C1)C1=CC=CC=C1 | C16H12N2
